US06995144B2
2-Chloro-6-methoxypyrazine
After dissolving 7.99 g of 2,6-dichloropyrazine in 100 ml of tetrahydrofuran, 11.3 ml of a 28% sodium methoxide-methanol solution was added dropwise while stirring at room temperature, and stirring was continued overnight. Water was added to the reaction solution, and extraction was performed with n-hexane. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off, under reduced pressure to obtain the title compound (6.96 g, 90% yield).

reactant | 2,6-dichloropyrazine | 7.99 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | Water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | sodium methoxide methanol | C[O-].[Na+].CO
product | 2-Chloro-6-methoxypyrazine | 6.96 g, 90% yield | ClC1=NC(=CN=C1)OC | C5H5ClN2O
